US04287195
A mixture of 10.6 parts of 1-(4-methoxyphenyl)piperazine dihydrobromide, 7.9 parts of 2-bromopyridine, 8.4 parts of potassium carbonate and 90 parts of N,N-dimethylformamide is stirred and refluxed overnight. The reaction mixture is diluted with water and the product is extracted twice with benzene. The combined extracts are dried, filtered and evaporated. The residue is crystallized from 1,1'-oxybisbutane. The product is filtered off and dried, yielding 8 parts (74%) of 1-(4-methoxyphenyl)-4-(2-pyridinyl)piperazine; mp. 125.6° C.

reactant | 1-(4-methoxyphenyl)piperazine dihydrobromide | Br.Br.COC1=CC=C(C=C1)N1CCNCC1
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(4-methoxyphenyl)-4-(2-pyridinyl)piperazine | 74% | COC1=CC=C(C=C1)N1CCN(CC1)C1=NC=CC=C1 | C16H19N3O
